US08633134B2
S.5 Synthesis of 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-N′-methoxy-2,N,N-trimethyl-benzamidine (Compound 1-3 of Table C.1)
To a solution of 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-N′-hydroxy-2,N,N-trimethyl-benzamidine (200 mg) in DMF (5 mL) was added a solution of LiOH (31 mg) in water (2 mL), before adding dimethyl sulfate (0.21 mL, 0.27 g). The mixture was stirred at room temperature over night and poured onto water. The aqueous layer was extracted with MTBE and the combined organic layers were washed with water, dried (Na2SO4) and evaporated to yield the title compound (170 mg, 83%).

reactant | 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-N′-hydroxy-2,N,N-trimethyl-benzamidine | 200 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=NO)N(C)C)C=C1)C)C(F)(F)F | C20H18Cl2F3N3O2
reactant | LiOH | 31 mg | [Li+].[OH-]
reactant | dimethyl sulfate | 0.21 mL, 0.27 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 2 mL | O | H2O
product | 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-N′-methoxy-2,N,N-trimethyl-benzamidine | 170 mg, 83% | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=NOC)N(C)C)C=C1)C)C(F)(F)F | C21H20Cl2F3N3O2
